US08097610B2
Preparation of [1-(6-chlorobenzothiazole-2-yl)-4-ethyl piperidine-4-yl]acetic acid methyl ester
Copper iodide (1.77 g) was suspended in tetrahydrofuran (18 mL), and ethyl magnesium bromide (1.0 M tetrahydrofuran solution, 18.6 mL) was added thereto at −30° C. After stirring at −25° C. for 0.5 hour, the reaction solution was cooled to −78° C. To the mixture was added dropwise a solution of [1-(6-chlorobenzothiazole-2-yl)piperidine-4-ylidene]acetic acid methyl ester (1.00 g) in tetrahydrofuran (10 mL), and then added trimethylsilyl trifluoromethansulfonate (1.12 mL). After stirring at −78° C. for 2 hours, aqueous sodium hydrogencarbonate solution was added thereto. After filtration of the insoluble material, the filtrate was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over magnesium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (979 mg). Yield: 90%.

reactant | ethyl magnesium bromide | 1.0 M, 18.6 mL | C(C)[Mg]Br
reactant | [1-(6-chlorobenzothiazole-2-yl)piperidine-4-ylidene]acetic acid methyl ester | 1.00 g | COC(C=C1CCN(CC1)C=1SC2=C(N1)C=CC(=C2)Cl)=O | C15H15ClN2O2S
reactant | trimethylsilyl trifluoromethansulfonate | 1.12 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 18 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | Copper iodide | 1.77 g | [Cu](I)I
product | [1-(6-chlorobenzothiazole-2-yl)-4-ethyl piperidine-4-yl]acetic acid methyl ester | 979 mg, Yield: 90% | COC(CC1(CCN(CC1)C=1SC2=C(N1)C=CC(=C2)Cl)CC)=O | C17H21ClN2O2S
